US06265400B1
Part D. Methyl 1-Boc-indole-3-propionate
To a solution of methyl indole-3-propionate(5.5 g, 27.1 mmol) and Boc2O(9.34 ml, 40.6 mmol) in dry CH2Cl2(50 ml) in an ice-water bath was added TEA(5.2 ml, 40.6 mmol) and DMAP(330 mg, 10 mol %). The mixture was then stirred overnight at rt. After removal of CH2Cl2, the oily residue was dissolved in EtOAc and washed with aqueous citric acid, NaHCO3 and brine, then dried over Na2SO4. After concentration and flush chromatography, 7.6 g of oily product was obtained(93%). 1H NMR(300 MHz, CDCl3) δ1.68(s, 9H), 2.72(t, 2H), 3.04(t, 2H), 3.70(s, 3H), 7.20-7.40(m, 3H), 7.54(d, 1H), 8.10(d, 1H); MS(ESI) Calc. for (M+1)+: 304. Found: 304.

reactant | methyl indole-3-propionate | 27.1 mmol, 5.5 g | N1C=C(C2=CC=CC=C12)CCC(=O)OC | C12H13NO2
reactant | Boc2O | 40.6 mmol, 9.34 ml | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | CH2Cl2 | 50 ml | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 330 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | Methyl 1-Boc-indole-3-propionate | 7.6 g | C(=O)(OC(C)(C)C)N1C=C(C2=CC=CC=C12)CCC(=O)OC | C17H21NO4
